US07781454B2
Step 3: 1-bromo-2,5-dichloro-3-(2-chloro-6-nitrophenoxy)benzene
3-bromo-2,5-dichlorophenol (8.0 g, 33 mmol) and 2,3-dichloronitrobenzene (6.4 g, 33 mmol) were dissolved in NMP (30 mL), followed by the addition of potassium carbonate (5.5 g, 40 mmol). The resulting suspension was placed in an oil bath at 120° C. for 7 hours, after which the reaction mixture was diluted with water (150 mL) and extracted with ethyl acetate (2×00 mL). The combined organic fractions were washed with water (3×100 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel (330 g) eluting with 0-20% CH2Cl2/hexanes to afford the title compound. 1H NMR (CDCl3) δ 7.98 (dd, J=8.2 Hz, J=1.6 Hz, 1H), 7.79 (dd, J=8.2 Hz, J=1.6 Hz, 1H), 7.44 (dd, J=8.2 Hz, J=8.2 Hz, 1H), 7.40 (d, J=2.2 Hz, 1H), 6.54 (d, J=2.2 Hz, 1H).

reactant | 3-bromo-2,5-dichlorophenol | 33 mmol, 8.0 g | BrC=1C(=C(C=C(C1)Cl)O)Cl | C6H3BrCl2O
reactant | 2,3-dichloronitrobenzene | 33 mmol, 6.4 g | ClC1=C(C=CC=C1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | potassium carbonate | 40 mmol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 30 mL | CN1CCCC1=O | C5H9NO
solvent | water | 150 mL | O | H2O
product | 1-bromo-2,5-dichloro-3-(2-chloro-6-nitrophenoxy)benzene | BrC1=C(C(=CC(=C1)Cl)OC1=C(C=CC=C1[N+](=O)[O-])Cl)Cl | C12H5BrCl3NO3
